US05977178
(2E)-5-(tert-Butoxycarbonylamino)-5-methylhex-2-enoic acid (158 mg, 0.65 mmol) was dissolved in N,N-dimethylformamide (3 ml) and dichloromethane (3 ml). 1-Hydroxy-7-azabenzotriazole was added. The solution was cooled to 0° C. N-(3-Dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride (88 mg, 0.65 mmol) was added. The reaction mixture was stirred for 15 min at 0° C. A solution of (2R)-2-Methylamino-N-methyl-N-((1R)-1-((N-methyl-N-(methylsulfonyl)amino)methyl)-2-(2-thienyl)ethyl)-3-(2-naphthyl)propionamide in dichloromethane (3 ml) and ethyldiisopropylamine (0.12 ml, 0.65 mmol) were added successively. The reaction mixture was stirred for 16 h, while it was warming up to room temperature. It was diluted with ethyl acetate (50 ml) and washed with 10% aqueous sodium hydrogen sulfate solution (50 ml). The aqueous phase was extracted with ethyl acetate (2×50 ml). The organic layers were washed with a saturated aqueous solution of sodium hydrogen carbonate (100 ml) and dried over magnesium sulfate. The solvent was removed in vacuo. The crude product was purified on silica (120 g), using ethyl acetate/heptane 2:1 (250 ml) and successively ethyl acetateiheptane 3:1 as eluent, to give 282 mg of ((3E)-1,1-dimethyl-4-(N-methyl-N-((1R)-1-(N-methyl-N-((1R)-1-((N-methyl-N-(methylsulfonyl) amino)methyl)-2-(2-thienyl)ethyl)carbamoyl)-2-(2-naphthyl)ethyl)carbamoyl)but-3-enyl)carbamic acid tert-butyl ester.

reactant | (2E)-5-(tert-Butoxycarbonylamino)-5-methylhex-2-enoic acid | 0.65 mmol, 158 mg | C(C)(C)(C)OC(=O)NC(C/C=C/C(=O)O)(C)C | C12H21NO4
reactant | 1-Hydroxy-7-azabenzotriazole | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | N-(3-Dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride | 0.65 mmol, 88 mg | Cl.CN(CCCN=C=NCC)C
reactant | (2R)-2-Methylamino-N-methyl-N-((1R)-1-((N-methyl-N-(methylsulfonyl)amino)methyl)-2-(2-thienyl)ethyl)-3-(2-naphthyl)propionamide | CN[C@@H](C(=O)N([C@H](CC=1SC=CC1)CN(S(=O)(=O)C)C)C)CC1=CC2=CC=CC=C2C=C1 | C24H31N3O3S2
reactant | ethyldiisopropylamine | 0.65 mmol, 0.12 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | ((3E)-1,1-dimethyl-4-(N-methyl-N-((1R)-1-(N-methyl-N-((1R)-1-((N-methyl-N-(methylsulfonyl) amino)methyl)-2-(2-thienyl)ethyl)carbamoyl)-2-(2-naphthyl)ethyl)carbamoyl)but-3-enyl)carbamic acid tert-butyl ester | 282 mg | C(C)(C)(C)OC(NC(C\C=C\C(N([C@H](CC1=CC2=CC=CC=C2C=C1)C(N([C@H](CC=1SC=CC1)CN(S(=O)(=O)C)C)C)=O)C)=O)(C)C)=O | C36H50N4O6S2
